US06670376B1
Zinc dust (20.26 g, 310 mmol) was added in portions over five minutes to a solution of 2-(3-cyanophenyl)-4-nitroanisole (15.7 g, 62 mmol) and ammonium formate (19.48 g, 310 mmol) in methanol (500 mL) and tetrahydofuran (500 mL). The reaction was complete after stirring for one hour at room temperature. The resulting mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was purified using flash chromatoghraphy on silica gel eluting with 5% methanol in dichloromethane to give 3-(3-cyanophenyl)-4-methoxyaniline (10 g, 44 mmol) as a yellow oil.

reactant | 2-(3-cyanophenyl)-4-nitroanisole | 62 mmol, 15.7 g | C(#N)C=1C=C(C=CC1)C1=C(C=CC(=C1)[N+](=O)[O-])OC | C14H10N2O3
reactant | ammonium formate | 310 mmol, 19.48 g | C(=O)[O-].[NH4+]
solvent | methanol | 500 mL | CO | CH4O
solvent | tetrahydofuran | 500 mL | O1CCCC1 | C4H8O
catalyst | Zinc | 310 mmol, 20.26 g | [Zn] | Zn
product | 3-(3-cyanophenyl)-4-methoxyaniline | 44 mmol, 10 g | C(#N)C=1C=C(C=CC1)C=1C=C(N)C=CC1OC | C14H12N2O
